2141-07-17 08:15:00 Physician Resident Progress Note
Chief Complaint: hypotension  and decreased mentation
   24 Hour Events:
 DIALYSIS CATHETER - START [**2141-7-16**] 08:27 PM
 ARTERIAL LINE - START [**2141-7-16**] 09:09 PM
   Persisitent abdominal pain secondary to colonic ileus (possible
   Oglvies) and significant dilated bowel loop.  Disimpaction x2, fleets
   enema, rectal tube.  Consult General Surgery.
   Attempted NG tube placement induced bilious non-bloody emesis.  Pt
   subsequently went into A-fib and received 5mg lopressor x 2.  HR
   100-110.
   Pt received 500cc NS for low blood pressure.  Hypotension was fluid
   responisive.
   Femoral line placed this am.
   Pt underwent endotracheal intubation after an episode of respiratory
   distress this am.   Subsequent bronchoscopy  was preformed to verify
   stent patency.
   Allergies:
   Codeine
   Unknown;
   Cisplatin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2141-7-16**] 10:03 PM
   Metronidazole - [**2141-7-17**] 03:22 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2141-7-17**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-17**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 125 (95 - 146) bpm
   BP: 78/53(63) {71/49(59) - 122/89(305)} mmHg
   RR: 7 (3 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,120 mL
                                                                  2,731 mL
   PO:
             TF:
   IVF:
                                                                  2,120 mL
                                                                  2,731 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    150 mL
   Urine:
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                  2,120 mL
                                                                  2,581 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.40/35/64/22/-1
   Physical Examination
   Gen: confused, uncomfortable, attempts to respond to questions
   CV: RRR
   Lungs: bilateral rhonchi
   Abd: distended, decreased bowel sounds, tender to palpation
   Extremities: all four extremities cold, pedal pulses nonpalpable,
   Labs / Radiology
   402 K/uL
   11.1 g/dL
   114 mg/dL
   6.9 mg/dL
   22 mEq/L
   4.5 mEq/L
   35 mg/dL
   101 mEq/L
   137 mEq/L
   38.2 %
   42.7 K/uL
        [image002.jpg]
                             [**2141-7-14**]  05:00 AM
                             [**2141-7-16**]  08:53 PM
                             [**2141-7-17**]  02:11 AM
                             [**2141-7-17**]  04:55 AM
                             [**2141-7-17**]  06:34 AM
   WBC
   30.4
   40.9
   42.7
   Hct
   36.2
   31.7
   38.2
   Plt
   247
   323
   402
   Cr
   7.1
   6.5
   6.9
   TCO2
   24
   22
   Glucose
   139
   160
   114
   Other labs: PT / PTT / INR:15.7/62.0/1.4, ALT / AST:22/39, Alk Phos / T
   Bili:112/0.3, Lactic Acid:1.6 mmol/L, LDH:294 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   A/P: 70yo F with SCLC, DMII, HTN, hyperlipidemia, A fib with RVR
   previously on coumadin, COPD, and ESRD on [**Hospital **] transferred to MICU with
   abdominal pain, likely RLL consolidation, and hypotension.
   .
   # Hypotension: persists; ddx includes infection (high risk given fever
   and WBC), intraabdominal process (given abd pain although relatively
   normal abd labs and lactate), med effect (on methadone and prn narcs).
   - continue art line
   - start phenylephrine and norepinephrine drips today titrate to
   MAP>65.
   - Plan to wean off  norepinephrine as soon as possible because of
   questionable poor bowel perfusion.
   - goal SBP>90, MAP> 65; D5-HCO3 bolus prn
   - has 2 PIVs, femoral line, HD line (for emergency).
   - rx infection as below
   -  mesenteric ischemia less likely given normal lactate and improvement
   with manual disimpaction
   .
   # ID: high WBC and consolidation seen on CXR.  prelim read on CT abd
   not worrisome for acute abd abscess or other infectious process.
   - continue vanco for line coverage and for HAP coverage
   - obtain vanc level
   - treat pip/tazo for GNR HAP coverage
   - cx sputum, blood and f/u
   - send cdiff x3 and begin treatment
   - consider tap of pleural fluid again if reaccumulates or patient does
   not improve.
   - reportedly had received neulasta so WBC could be a result of this.
   suspect ID for now though
   .
   # Abd pain: ddx includes pseudoobstruction vs sepsis vs toxic megacolon
   vs ischemic bowel.  Suspect pseudoobstruction ([**Last Name (un) 1951**]) given
   distended colonic bowel.  [**Month (only) 60**] be worsened by constipation and
   medications.
   - send C. diff x3 ;initiate rx for C. difficile ( IV flagyl, po vanc)
   - serial abd exams
   - serial KUBs
   - manual disimpact prn
   - OG tube placed today
   - continue rectal tube
   - keep NPO for now attempt to minimize narcotics
   - aggressive lytes repletion
   - not a surgical candidate at this time
   - GI consult:  Limited role of acute intervention at this time;
   recommend comfort care measures
   .
   # SCLC/COPD/SOB: s/p stent placed in right mainstem bronchus and right
   sided thoracentesis for worsening pleural effusion.
   -Pt was intubated after episode of respiratory distress this morning.
   - Bronchoscopy:  confirmed patency of stent and distal airway, thin
   cloudy secretions.
   - bronchial washings sent for Gram stain and cx
   - will continue abx as above
   - f/u pleural fluid cx
   - continue nebs
   .
   # ESRD: hemodialysis per nephrology (TuThSa). Renally dose meds. HD
   Saturday. Cont sevelamer, nephrocaps.
   .
   # SVC syndrome: Venogram showed some small thrombi but no DVT, stridor
   or extrinsic SVC compression. d/w renal in am.
   .
   # Small cell lung cancer T2N2MO(Stage IIIA), diagnosed [**2138**],
   s/p surgery, chemo w/ cisplatin & etoposide, & radiation. Most recent
   treatment with VP etoposide cycle 14 [**2141-6-23**] and Neulasta [**2141-6-24**]
   .
   # Pain control: Will continue methadone but try to minimize meds given
   pseudoobstruction
   .
   # Insulin dependent DM: 70/30 and ISS
   .
   # Atrial fibrillation: Now in NSR but was in afib earlier this stay.
   Off coumadin for procedures.  consider restarting if no procedures
   planned.
   - start amiodarone 150mg IV bolus followed by drip 0.5mg/min ( beta
   blockers and dilt are not options at this time due to hypotension)
   # Gout: stable, cont allopurinol
   .
   # PPX: protonix, bowel regimen, subq heparin
   .
   # Access: piv x2, femoral line
   .
   # contact: son [**Name (NI) 1942**] is HCP [**Telephone/Fax (1) 3427**].  ICU consent in chart
   .
   # Dispo: ICU
   .
   # DNR/DNI discussed with family today

2141-07-18 06:47:00 Physician Resident Progress Note
Chief Complaint: hypotension, altered mental status
   24 Hour Events:
 MULTI LUMEN - START [**2141-7-17**] 08:00 AM
 BLOOD CULTURED - At [**2141-7-17**] 10:00 AM
 TRANSTHORACIC ECHO - At [**2141-7-17**] 10:00 AM
   Vancomycin level ([**2141-7-17**] 17:00) 19.
   ABG ([**2141-7-18**] 06:00):  7.36/34/119/20
   BMP ([**2141-7-18**]): Na 125, Cl 88
   Allergies:
   Codeine
   Unknown;
   Cisplatin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2141-7-16**] 10:03 PM
   Metronidazole - [**2141-7-17**] 07:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-7-18**] 12:13 AM
   Vancomycin - [**2141-7-18**] 06:09 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 3 mcg/Kg/min
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2141-7-17**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2141-7-18**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-18**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 110 (96 - 127) bpm
   BP: 105/71(84) {67/52(58) - 105/75(85)} mmHg
   RR: 21 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  9,397 mL
                                                                  1,003 mL
   PO:
             TF:
   IVF:
                                                                  9,397 mL
                                                                  1,003 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                      0 mL
   Urine:
   NG:
                                                                  1,150 mL
   Stool:
   Drains:
   Balance:
                                                                  8,247 mL
                                                                  1,006 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.36/34/119/19/-5
   Ve: 13.6 L/min
   PaO2 / FiO2: 198
   Physical Examination
   Gen: NAD, asleep
   CV: tachycardic, no M/R/G
   Lungs: intubated, bilateral rhonchi
   Abd: firm, distended, decreased bs
   Extremities: cool to touch, 2+ UE edema bilaterallly, pedal pulses not
   palpable
   Labs / Radiology
   Blood culture(6/29-30/08): pending
Bronchial washing ([**2141-7-17**]):
              Culture pending
              GRAM STAIN (Final [**2141-7-17**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      3+  (5-10 per 1000X FIELD):   BUDDING YEAST.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
CXR [**2141-7-18**]: pending
CT Abd w/ contrast:  moderate colonic distention with air-fluid levels w/o colon
ic wall thickening or pericolonic fat stranding, likely d/t colonic ileus.
ECHO ([**2141-7-17**]): Left ventricular function is probably normal (LVEF > 55%), a foc
[**Doctor Last Name **] wall motion abnormality cannot be fully excluded. The right ventricle is smal
l and has probably normal function. Pulmonary artery systolic pressure could not
 be determined.
   498 K/uL
   10.3 g/dL
   618 mg/dL
   6.5 mg/dL
   19 mEq/L
   4.7 mEq/L
   38 mg/dL
   88 mEq/L
   125 mEq/L
   37.5 %
   75.3 K/uL
        [image002.jpg]
                             [**2141-7-17**]  04:55 AM
                             [**2141-7-17**]  06:34 AM
                             [**2141-7-17**]  09:31 AM
                             [**2141-7-17**]  10:11 AM
                             [**2141-7-17**]  11:23 AM
                             [**2141-7-17**]  03:13 PM
                             [**2141-7-17**]  05:09 PM
                             [**2141-7-17**]  08:33 PM
                             [**2141-7-18**]  04:50 AM
                             [**2141-7-18**]  06:12 AM
   WBC
   42.7
   68.1
   75.3
   Hct
   38.2
   38.6
   37.5
   Plt
   [**Telephone/Fax (3) 3438**]
   Cr
   6.9
   6.6
   6.3
   6.5
   TCO2
   22
   18
   17
   22
   23
   20
   Glucose
   114
   135
   364
   618
   Other labs: PT / PTT / INR:18.1/37.2/1.7, ALT / AST:22/39, Alk Phos / T
   Bili:112/0.3, Differential-Neuts:94.0 %, Band:0.9 %, Lymph:0.0 %,
   Mono:1.7 %, Eos:0.0 %, Fibrinogen:898 mg/dL, Lactic Acid:4.6 mmol/L,
   LDH:294 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   A/P: 70yo F with SCLC, DMII, HTN, hyperlipidemia, A fib with RVR
   previously on coumadin, COPD, and ESRD on [**Hospital **] transferred to MICU with
   abdominal pain, likely RLL consolidation, and hypotension.
   .
   # Hypotension: persists; ddx includes infection (high risk given fever
   and WBC), intraabdominal process (given abd pain although relatively
   normal abd labs and lactate), med effect (on methadone and prn narcs).
   - continue art line
   - continue phenylephrine and norepinephrine drips titrate to MAP>65.
   - Plan to wean off  norepinephrine as soon as possible because of
   questionable poor bowel perfusion.
   - goal SBP>90, MAP> 65; D5-HCO3 bolus prn
   - has 2 PIVs, femoral line, HD line (for emergency).
   - rx infection as below
   .# Hyponatremia and Hypochloremia
   # ID: high WBC and consolidation seen on CXR.  prelim read on CT abd
   not worrisome for acute abd abscess or other infectious process.
   - continue vanco for line coverage and for HAP coverage; goal > 20;
   most recent level: 19.  Consider dosing today after possible dialysis.
   - treat pip/tazo for GNR HAP coverage
   - cx sputum, blood and f/u
   - send cdiff x3 and begin treatment
   - consider tap of pleural fluid again if reaccumulates or patient does
   not improve.
   - reportedly had received neulasta so WBC could be a result of this.
   suspect ID for now though
   .
   # Abd pain: ddx includes pseudoobstruction vs sepsis vs toxic megacolon
   vs ischemic bowel.  Suspect pseudoobstruction ([**Last Name (un) 1951**]) given
   distended colonic bowel.  [**Month (only) 60**] be worsened by constipation and
   medications.
   - send C. diff x3 ;initiate rx for C. difficile ( IV flagyl, po vanc)
   - serial abd exams
   - serial KUBs
   - manual disimpact prn
   - continue rectal tube and OG
   - keep NPO for now; attempt to minimize narcotics
   - aggressive lytes repletion
   - not a surgical candidate at this time
   - GI consult:  Limited role of acute intervention at this time;
   recommend comfort care measures
   .
   # SCLC/COPD/SOB: s/p stent placed in right mainstem bronchus and right
   sided thoracentesis for worsening pleural effusion.
   - Pt intubated [**2141-7-17**]
   - Bronchoscopy:  confirmed patency of stent and distal airway, thin
   cloudy secretions.
   - bronchial washings sent for Gram stain and cx
   - will continue abx as above
   - f/u pleural fluid cx
   - continue nebs
   .
   # ESRD: hemodialysis per nephrology (TuThSa). Consider delaying
   hemodialysis due to hemodynamic instability. Renally dose meds.  Cont
   sevelamer, nephrocaps.
   .
   # SVC syndrome: Venogram showed some small thrombi but no DVT, stridor
   or extrinsic SVC compression. d/w renal in am.
   .
   # Small cell lung cancer T2N2MO(Stage IIIA), diagnosed [**2138**],
   s/p surgery, chemo w/ cisplatin & etoposide, & radiation. Most recent
   treatment with VP etoposide cycle 14 [**2141-6-23**] and Neulasta [**2141-6-24**]
   .
   # Pain control: Will continue methadone but try to minimize meds given
   pseudoobstruction
   .
   # Insulin dependent DM: 70/30 and ISS
   .
   # Atrial fibrillation: Now in NSR but was in afib earlier this stay.
   Off coumadin for procedures.  Consider restarting if no procedures
   planned.
   - continue amiodarone  drip 0.5mg/min ( beta blockers and dilt are not
   options at this time due to hypotension)
   # Gout: stable, cont allopurinol
   .
   # PPX: protonix, bowel regimen, subq heparin
   .
   # Access: piv x2, femoral line
   .
   # contact: son [**Name (NI) 1942**] is HCP [**Telephone/Fax (1) 3427**].  ICU consent in chart
   .
   # Dispo: ICU
   .
   # DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-7-16**] 08:26 PM
   Dialysis Catheter - [**2141-7-16**] 08:27 PM
   22 Gauge - [**2141-7-16**] 08:33 PM
   Arterial Line - [**2141-7-16**] 09:09 PM
   Multi Lumen - [**2141-7-17**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-07-19 07:27:00 Physician Resident Progress Note
Chief Complaint: hypotension  and unresponsive
   24 Hour Events:
 FEVER - 101.4
F - [**2141-7-18**] 12:00 PM
   Discussed goals of treatment with son [**2141-7-18**].  Decision was made not to
   escalate care.
   Still requiring both norepinephrine and phenylephrine to maintain MAP
   >65
   Electrolyte abnormality persists (Na 128, Cl 88)
   ABG 7.45/30/87/21 on 40% FiO2
   Allergies:
   Codeine
   Unknown;
   Cisplatin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2141-7-16**] 10:03 PM
   Metronidazole - [**2141-7-18**] 08:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-7-18**] 10:33 PM
   Vancomycin - [**2141-7-19**] 05:59 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-7-18**] 11:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-19**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.6
C (99.7
   HR: 121 (109 - 136) bpm
   BP: 105/65(80) {67/48(55) - 111/71(85)} mmHg
   RR: 24 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.5 kg (admission): 76.2 kg
   Height: 62 Inch
             Total In:
                                                                  3,988 mL
                                                                    466 mL
   PO:
             TF:
   IVF:
                                                                  3,858 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    250 mL
   Urine:
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                  3,988 mL
                                                                    216 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.45/31/89.[**Numeric Identifier 128**]/19/0
   Ve: 14 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Gen: NAD, asleep
   CV: distant heart sounds, tachycardic, regular rhythm
   Lungs: on ventilator, coarse bs bilaterally
   Abd: distended, +bs, no reaction to palpation
   Extremities: 2+ edema UE,  pedal pulses nonpalpable, all extremities
   cool to touch
   Labs / Radiology
   ABG:  7.45/30/87/21 on 40% FiO2
   Blood culture(6/29-30/08): pending
Bronchial washing ([**2141-7-17**]):
              Culture (prelim): yeast 10,000-100,000
              GRAM STAIN (Final [**2141-7-17**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      3+  (5-10 per 1000X FIELD):   BUDDING YEAST.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
CXR and KUB [**2141-7-19**]: pending
CT Abd w/ contrast:  moderate colonic distention with air-fluid levels w/o colon
ic wall thickening or pericolonic fat stranding, likely d/t colonic ileus.
ECHO ([**2141-7-17**]): Left ventricular function is probably normal (LVEF > 55%), a foc
[**Doctor Last Name **] wall motion abnormality cannot be fully excluded. The right ventricle is smal
l and has probably normal function. Pulmonary artery systolic pressure could not
 be determined.
   495 K/uL
   9.8 g/dL
   183 mg/dL
   7.5 mg/dL
   19 mEq/L
   4.3 mEq/L
   52 mg/dL
   88 mEq/L
   128 mEq/L
   34.3 %
   65.9 K/uL
        [image002.jpg]
                             [**2141-7-17**]  11:23 AM
                             [**2141-7-17**]  03:13 PM
                             [**2141-7-17**]  05:09 PM
                             [**2141-7-17**]  08:33 PM
                             [**2141-7-18**]  04:50 AM
                             [**2141-7-18**]  06:12 AM
                             [**2141-7-18**]  12:05 PM
                             [**2141-7-18**]  03:20 PM
                             [**2141-7-19**]  04:06 AM
                             [**2141-7-19**]  04:27 AM
   WBC
   75.3
   69.0
   65.9
   Hct
   37.5
   34.4
   34.3
   Plt
   498
   436
   495
   Cr
   6.3
   6.5
   7.5
   TCO2
   17
   22
   23
   20
   21
   22
   Glucose
   364
   618
   404
   183
   Other labs: PT / PTT / INR:18.1/37.2/1.7, ALT / AST:22/39, Alk Phos / T
   Bili:112/0.3, Differential-Neuts:94.0 %, Band:0.9 %, Lymph:0.0 %,
   Mono:1.7 %, Eos:0.0 %, Fibrinogen:898 mg/dL, Lactic Acid:3.9 mmol/L,
   LDH:294 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   A/P: 70yo F with SCLC, DMII, HTN, hyperlipidemia, A fib with RVR
   previously on coumadin, COPD, and ESRD on [**Hospital **] transferred to MICU with
   abdominal pain, likely RLL consolidation, and hypotension.
   .
   # Hypotension: persists; ddx includes infection (high risk given fever
   and WBC), intraabdominal process (given abd pain although relatively
   normal abd labs and lactate), med effect (on methadone and prn narcs).
   - continue art line
   - continue phenylephrine and norepinephrine drips titrate to MAP>65.
   - Plan to wean off norepinephrine as soon as possible because of
   questionable poor bowel perfusion.
   - goal SBP>90, MAP> 65; D5-HCO3 bolus prn
   - has 2 PIVs, femoral line, HD line (for emergency).
   - rx infection as below
   # Hyponatremia and Hypochloremia: persists on repeat labs
   # ID: high WBC ([**2141-7-18**]: 65.9) and consolidation seen on CXR.
   - continue vanco for line coverage and for HAP coverage; goal > 20;
   consider ordering vanc level to determine dosing if pt
s son wishes to
   continue current level of care
   - continue pip/tazo for GNR HAP coverage
   - f/u blood and sputum cx
   - send cdiff x3 and begin treatment and contact precautions
   # Abd pain: distension and firmness improved. ddx includes
   pseudoobstruction vs sepsis vs toxic megacolon vs ischemic bowel.
   Suspect pseudoobstruction ([**Last Name (un) 1951**]) given distended colonic bowel.
   [**Month (only) 60**] be worsened by constipation and medications.
   - KUB showed improvement of colonic dilatation.
   - send C. diff x3 ;initiate rx for C. difficile ( IV flagyl, po vanc)
   - serial abd exams
   - manual disimpact prn
   - continue rectal tube and OG
   - keep NPO for now; attempt to minimize narcotics
   - aggressive lytes repletion
   - General Surgery consult: not a surgical candidate at this time
   - GI consult:  Limited role of acute intervention at this time;
   recommend comfort care measures
   # SCLC/COPD/SOB: s/p stent placed in right mainstem bronchus and right
   sided thoracentesis for worsening pleural effusion.
   - Pt intubated [**2141-7-17**] Volume control ventilation
   - Bronchoscopy:  confirmed patency of stent and distal airway, thin
   cloudy secretions.
   - bronchial washings: Gram stain (PMN, budding yeast, G+ cocci) and cx
   pending
   - will continue abx as above
   - f/u pleural fluid cx
   - continue nebs
   # ESRD: Hold off on hemodialysis due to hemodynamic instability. CVVH
   was discussed with team and pt
s son and deemed an inappropriate
   measure at this time. Continue to renally dose meds.
   # SVC syndrome: Venogram showed some small thrombi but no DVT, stridor
   or extrinsic SVC compression. d/w renal in am.
   # Small cell lung cancer T2N2MO(Stage IIIA), diagnosed [**2138**],
   s/p surgery, chemo w/ cisplatin & etoposide, & radiation. Most recent
   treatment with VP etoposide cycle 14 [**2141-6-23**] and Neulasta [**2141-6-24**]
   # Pain control: Will continue methadone but try to minimize meds given
   pseudoobstruction
   # Insulin dependent DM: 70/30 and ISS.  Consider increasing basal dose
   due to manage elevated bs.
   # Atrial fibrillation: Now in NSR but was in afib earlier this stay.
   Off coumadin.
   - Continue amiodarone 400mg po BID ( beta blockers and dilt are not
   options at this time due to hypotension)
   # Gout: stable, hold po allopurinol d/t increased OG output
   # PPX: protonix, bowel regimen, subq heparin
   # Access: piv x2, femoral line
   # contact: son [**Name (NI) 1942**] is HCP [**Telephone/Fax (1) 3427**].  ICU consent in chart
   Meeting scheduled for 14:00 today with son to discuss goals of
   treatment and CMO care
   # Dispo: ICU
   # DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-7-16**] 08:26 PM
   Dialysis Catheter - [**2141-7-16**] 08:27 PM
   Arterial Line - [**2141-7-16**] 09:09 PM
   Multi Lumen - [**2141-7-17**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: